US06878718B2
7-Acetyl-3-ethoxy-7-azaspiro[3.5]non-2-en-1-one
A solution of 1-acetyl piperidine-4-carbonyl chloride (5.0 g, 26.4 mmol) and ethoxyacetylene (4.0 g, 55.5 mmol) in THF (60 ml) was treated dropwise with triethylamine (7.6 ml, 55.0 mmol). The resulting slurry was stirred at room temperature for 5d prior to filtration and concentration of the filtrate in vacuo. Chromatography (SiO2, 100% EtOAc to 95:5 EtOAc:MeOH) gave the title compound as a white powder (3.97 g, 17.8 mmol, 67%). δH (CDCl3, 300K) 4.79 (1H, s), 4.17 (2H, q, J 7.1 Hz), 3.87-3.81 (1H, m), 3.56-3.42 (3H, m), 2.02 (3H, s), 1.85-1.67 (4H, m), 1.39 (3H, t, J 7.1 Hz); m/z (ES+, 70V) 223.9 (MH+).

reactant | 1-acetyl piperidine-4-carbonyl chloride | 26.4 mmol, 5.0 g | C(C)(=O)N1CCC(CC1)C(=O)Cl | C8H12ClNO2
reactant | ethoxyacetylene | 55.5 mmol, 4.0 g | C(C)OC#C | C4H6O
reactant | triethylamine | 55.0 mmol, 7.6 ml | C(C)N(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 7-Acetyl-3-ethoxy-7-azaspiro[3.5]non-2-en-1-one | 17.8 mmol, 3.97 g, 67% | C(C)(=O)N1CCC2(C(=CC2=O)OCC)CC1 | C12H17NO3
